US07576074B2
2-(4-Methylpiperazin-1-yl)ethanethioamide (0.438 g, 2.53 mmol), 1,3-dichloroacetone (0.355 g, 2.78 mmol) and sodium bicarbonate (0.236 g, 2.78 mmol) was stirred in chloroform (4 mL) at room temperature for 48 h. The reaction mixture was filtered and the filter cake was washed with chloroform. The filtrate was added dropwise to a cooled (ice bath) solution of thionyl chloride (0.205 mL, 2.78 mmol) in chloroform (2 mL). The solution was stirred at 60° C. for 0.5 h and then cooled to room temperature. The brown mixture was filtered and washed with chloroform to afford 1-{[4-(chloromethyl)-1,3-thiazol-2-yl]methyl}-4-methylpiperazine hydrochloride as a brown solid (0.421 g, 1.49 mmol, 59% yield). 1H NMR (400 MHz; D2O): 2.89 (s, 3H); 3.18-3.43 (m, 4H); 3.56-3.78 (m, 4H); 4.56 (s, 2H); 4.67 (s, 2H); 7.66 (s, 1H); MS (EI) for C10H16ClN3S: 246 (MH+).

reactant | 2-(4-Methylpiperazin-1-yl)ethanethioamide | 2.53 mmol, 0.438 g | CN1CCN(CC1)CC(N)=S | C7H15N3S
reactant | 1,3-dichloroacetone | 2.78 mmol, 0.355 g | ClCC(=O)CCl | C3H4Cl2O
reactant | sodium bicarbonate | 2.78 mmol, 0.236 g | C([O-])(O)=O.[Na+]
reactant | thionyl chloride | 2.78 mmol, 0.205 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-{[4-(chloromethyl)-1,3-thiazol-2-yl]methyl}-4-methylpiperazine hydrochloride | 1.49 mmol, 0.421 g, 59% yield | Cl.ClCC=1N=C(SC1)CN1CCN(CC1)C | InChI=1S/C10H16ClN3S.ClH/c1-13-2-4-14(5-3-13)7-10-12-9(6-11)8-15-10;/h8H,2-7H2,1H3;1H
